US07129242B2
4-Guanidino-Benzoic Acid Methyl Ester
To a stirred suspension of 4-guanidino benzoic acid (20.0 g, 93 mmol) in methanol (600 mL) was added thionyl chloride (12 mL) drop wise. The reaction mixture was stirred at room temperature overnight. The reaction was concentrated in vacuo to give a white powder. The crude material was dissolved in dichloromethane and evaporated to provide the title compound as a white powder (17.95 g, 100% yield): HPLC Retention Time; 1.27 min (Method A). M+1; 193.

reactant | 4-guanidino benzoic acid | 93 mmol, 20.0 g | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
reactant | thionyl chloride | 12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 600 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Guanidino-Benzoic Acid Methyl Ester | 17.95 g, 100% yield | COC(C1=CC=C(C=C1)NC(=N)N)=O | C9H11N3O2
